US07732435B2
7-Amino-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one
A stirred solution of 7-amino-3-(4-chlorophenyl)-2-isopropyl-8-methoxy-chromen-4-one (0.178 g, 0.52 mmol) in methylene chloride (5 ml) under an argon atmosphere is cooled to −78° C. and treated with boron tribromide (1M solution in methylene chloride, 3.2 ml, 3.2 mmol, 6.2 eq.). The reaction mixture is stirred at −78° C. for 1 h and at room temperature for 45 min, whereupon HPLC analysis indicates that the reaction is complete. The reaction mixture is treated with water (32 ml) and stirred at ambient temperature overnight. The mixture is washed with methylene chloride, and the organic layer is washed with 5% sodium thiosulfate solution, followed by brine. The organic phase is dried over anhydrous magnesium sulfate and filtered, and the solvent is removed by evaporation in vacuo to afford a brown oil. The oil is purified by flash chromatography (hexane/ethyl acetate=9:1 through 1% methanol in ethyl acetate to methylene chloride/methanol=9:1) to afford the title compound.

reactant | 7-amino-3-(4-chlorophenyl)-2-isopropyl-8-methoxy-chromen-4-one | 0.52 mmol, 0.178 g | NC1=CC=C2C(C(=C(OC2=C1OC)C(C)C)C1=CC=C(C=C1)Cl)=O | C19H18ClNO3
reactant | boron tribromide | 3.2 mmol, 1M, 3.2 ml, 6.2 eq. | B(Br)(Br)Br | BBr3
reactant | water | 32 ml | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 7-Amino-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one | NC1=CC=C2C(C(=C(OC2=C1O)C(C)C)C1=CC=C(C=C1)Cl)=O | C18H16ClNO3
